US08541588B2
N-(5-Chloro-1,3-thiazol-2-yl)-4-(4-cyano-2-iodophenoxy)-2,5-difluorobenzenesulfonamide
To a suspension of potassium carbonate (0.068 g, 0.000492 mol) and N-(5-chloro-1,3-thiazol-2-yl)-N-(2,4-dimethoxybenzyl)-2,4,5-trifluorobenzenesulfonamide (Preparation 334, 0.200 g, 0.000418 mol) in dimethyl sulfoxide (3.0 mL) was added 4-hydroxy-3-iodobenzonitrile (Preparation 342, 0.108 g, 0.000441 mol) and was stirred at 65° C. under nitrogen for 16 hours. The reaction was diluted with ethyl acetate (10.0 mL). The organic phase was washed with saturated aqueous sodium chloride solution (2×10.0 mL), dried over sodium sulfate, filtered and concentrated in vacuo. The crude was dissolved in dichloromethane (1.5 mL), treated with trifluoroacetic acid (1.5 mL) and stirred at room temperature under nitrogen for 16 hours. Reaction was concentrated in vacuo and residue dissolved in ethyl acetate (10.0 mL). The organic extract was washed with saturated aqueous sodium bicarbonate solution (2×10.0 mL), dried over sodium sulphate, filtered and concentrated in vacuo. The resulting residue was purified using ISCO™ (12 g SiO2) eluting with methanol:dichloromethane (gradient 0:1 to 1:39, by volume) to afford the title compound as an orange solid, 165 mg, 35% yield.

reactant | potassium carbonate | 0.000492 mol, 0.068 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-(5-chloro-1,3-thiazol-2-yl)-N-(2,4-dimethoxybenzyl)-2,4,5-trifluorobenzenesulfonamide | 0.000418 mol, 0.200 g | ClC1=CN=C(S1)N(S(=O)(=O)C1=C(C=C(C(=C1)F)F)F)CC1=C(C=C(C=C1)OC)OC | C18H14ClF3N2O4S2
reactant | 4-hydroxy-3-iodobenzonitrile | 0.000441 mol, 0.108 g | OC1=C(C=C(C#N)C=C1)I | C7H4INO
solvent | dimethyl sulfoxide | 3.0 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 10.0 mL | C(C)(=O)OCC | C4H8O2
product | N-(5-Chloro-1,3-thiazol-2-yl)-4-(4-cyano-2-iodophenoxy)-2,5-difluorobenzenesulfonamide | 35% yield | ClC1=CN=C(S1)NS(=O)(=O)C1=C(C=C(C(=C1)F)OC1=C(C=C(C=C1)C#N)I)F | C16H7ClF2IN3O3S2
